US03954732
2,2,2-Trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)-penam-3-carboxylate (1.10 g) was dissolved in methylene chloride (12 ml) and to this solution was added methanol (3 ml). And to the solution was added silver fluoroborate (0.45 g) under stirring under cooling at -10°C and the mixture was stirred for 2 hours at the same temperature. After the reaction was completed, the reaction mixture was filtered and the filtrate was washed with sodium bicarbonate aqueous solution and then with water, dried over magnesium sulfate and thereafter concentrated. The residue was subjected to column chromatography on silica gel (25 g) and eluted with chloroform. The eluate was separated into fractions of about 20 ml and the first and second fractions were collected. After distilling off the solvent, the residue was dried to give oily 2,2,2-trichloroethyl 2-methoxymethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate. Infrared Absorption Spectrum (CHCl3) 3360, 1785, 1757, 1666 cm-1.

reactant | 2,2,2-Trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)-penam-3-carboxylate | 1.10 g | BrCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H18BrCl3N2O4S
reactant | methanol | 3 ml | CO | CH4O
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
catalyst | silver fluoroborate | 0.45 g | F[B-](F)(F)F.[Ag+]
product | 2,2,2-trichloroethyl 2-methoxymethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate | COCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C19H21Cl3N2O5S
